US07576089B2
N-[2-((3S)-3-{[4-Hydroxy-4-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexyl]amino}pyrrolidin-1-yl)-2-oxoethyl]-3-(trifluoromethyl)benzamide
To a solution of N-{2-[(3S)-3-aminopyrrolidin-1-yl]-2-oxoethyl}-3-(trifluoromethyl)benzamide hydrochloride (22.10 g, 47.1 mmol) and 4-hydroxy-4-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexanone (12.7 g, 47.1 mmol) in isobutyl alcohol (80.0 mL) was added triethylamine (19.7 mL, 141 mmol). The reaction mixture was cooled in an ice bath and stirred for 30 minutes. To it was added sodium triacetoxyborohydride (11.0 g, 51.8 mmol) in portion. After being stirred at room temperature for 4 hours, the solvent was removed by evaporation under reduced pressure. Saturated aqueous NaHCO3 solution was added and the solution was extracted with ethyl acetate (150×3). The combined extracts were washed with brine, dried (Na2SO4), filtered, and concentrated. The residue was columned on silica gel, eluting with ethyl acetate (1% NH4OH aqueous solution)/methanol (95/5 to 80/20). The appropriate fractions were combined and concentrated to give the title compound as a white powder (17.77 g). MS (M+H) 569.

reactant | N-{2-[(3S)-3-aminopyrrolidin-1-yl]-2-oxoethyl}-3-(trifluoromethyl)benzamide hydrochloride | 47.1 mmol, 22.10 g | Cl.N[C@@H]1CN(CC1)C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O
reactant | 4-hydroxy-4-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexanone | 47.1 mmol, 12.7 g | OC1(CCC(CC1)=O)C1=NC=C(C=C1)C1=NC=CC=N1 | C15H15N3O2
reactant | triethylamine | 141 mmol, 19.7 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 51.8 mmol, 11.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | isobutyl alcohol | 80.0 mL | C(C(C)C)O | C4H10O
product | N-[2-((3S)-3-{[4-Hydroxy-4-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexyl]amino}pyrrolidin-1-yl)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 17.77 g | OC1(CCC(CC1)N[C@@H]1CN(CC1)C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=NC=C(C=C1)C1=NC=CC=N1 | C29H31F3N6O3
